US03983133
A mixture of 8.2 parts of α-(aminomethyl)-m-methylbenzyl alcohol, 6,1 parts of 2-(nitramino)-2-imidazoline and 40 parts of xylene is stirred in an oil-bath at 150°-160°C, while almost all xylene is distilled off. The residue is diluted with a few parts of acetone and allowed to crystallize. The product is filtered off and recrystallized from 4-methyl-2-pentanone, yielding α-(2-imidazolin-2-ylaminomethyl)-m-methylbenzyl alcohol; m.p. 121°C.

reactant | α-(aminomethyl)-m-methylbenzyl alcohol | NCC(C1=CC(=CC=C1)C)O | C9H13NO
reactant | 2-(nitramino)-2-imidazoline | N([N+](=O)[O-])C=1NCCN1 | C3H6N4O2
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | α-(2-imidazolin-2-ylaminomethyl)-m-methylbenzyl alcohol | N1C(=NCC1)NCC(C1=CC(=CC=C1)C)O | C12H17N3O
